US04505904
2-(1-Chloroethylthio)-2-methylpropanenitrile
In 10 ml of carbon tetrachloride were placed 1.4 g of 2-(ethylthio)-2-methylpropanenitrile and 1.5 g of N-chlorosuccinimide and the mixture was refluxed with stirring for four hours. Solid was filtered and the filtrate was evaporated to give 1.8 g of product as a yellow liquid. This product was used without purification.

reactant | 2-(ethylthio)-2-methylpropanenitrile | 1.4 g | C(C)SC(C#N)(C)C | C6H11NS
reactant | N-chlorosuccinimide | 1.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-Chloroethylthio)-2-methylpropanenitrile | 1.8 g | ClC(C)SC(C#N)(C)C | C6H10ClNS
